US06740649B2
Cyclopropanecarboxylic acid (4 g, 52 mmol) was treated with phenylenediamine bis-hydrochloride (1 eq) and polyphosphosphoric acid (52 mL) and heated to 160° C. for 6 h. The reaction was cooled to 0° C. and diluted with water, then basified with NaOH (50% aqueous) until pH>10. The solution was extracted with ethyl acetate, dried (MgSO4), filtered and concentrated, purified by flash chromatography (100% ethyl acetate) giving 2-cyclopropylbenzimidazole (1.1 g, 13%). MS found: (M+H)+=159.

reactant | Cyclopropanecarboxylic acid | 52 mmol, 4 g | C1(CC1)C(=O)O | C4H6O2
reactant | phenylenediamine bis-hydrochloride | 1 eq | Cl.Cl.C1(=C(C=CC=C1)N)N
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 2-cyclopropylbenzimidazole | 1.1 g, 13% | C1(CC1)C=1NC2=C(N1)C=CC=C2 | C10H10N2
